US05057522
To a stirred suspension of NaH (17.2 mmol of an 80% dispersion) in dry dimethylformamide (30 mL) at rt was added 5.7-dimethyl-2-ethylimidazo[4,5-b]pyridine (1.51 g, 8.62 mmol) in one portion. After 20 minutes, the mixture was cooled to 0° C. and N-triphenylmethyl-5-(4'-bromomethylbiphenyl-2-yl)-tetrazole (5.29 g, 9.48 mmol) was added in one portion. The resulting mixture was warmed to rt and stirred for 15 hours. The excess NaH was quenched with water and the bulk of the DMF was removed in vacuo at 40°-50° C. The residue was extracted with EtOAc from brine, dried (K2CO3), and concentrated. Purification by flash chromatography (SiO2, solvent gradient: 80% EtOAc/hexanes, 100% EtOAc) gave 4.25 g of 5,7-dimethyl-2-ethyl-3-(2'-(N-triphenylmethyltetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine: 1H NMR (300 MHz, CDCl3) δ7.86 (dd, 1H, J=7, 2 Hz), 750-7.41 (m, 2H), 7.36-721 (m, 10 H), 7.05 (d, 2 H, J=4.5 Hz), 6.95-6.89 (m, 7 H), 6.86 (d, 2 H, J=4.5 Hz), 5.35 (s, 2H), 2.67 (q, 2 H, J=7.5 Hz), 2.65 (s, 3 H), 2.58 (s, 3 H), 1.25 (t, 3 H, J=7.5 Hz).

reactant | NaH | [H-].[Na+]
reactant | 5.7-dimethyl-2-ethylimidazo[4,5-b]pyridine | 8.62 mmol, 1.51 g | CC1=CC(=C2C(=N1)N=C(N2)CC)C | C10H13N3
reactant | N-triphenylmethyl-5-(4'-bromomethylbiphenyl-2-yl)-tetrazole | 9.48 mmol, 5.29 g | C1(=CC=CC=C1)C(N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CBr)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 5,7-dimethyl-2-ethyl-3-(2'-(N-triphenylmethyltetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine | 4.25 g | CC1=CC(=C2C(=N1)N(C(=N2)CC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C | C43H37N7
